US05438145
N-trityl-2-aminoethanol
A mixture of ethanolamine (2-aminoethanol) (98%, 1.750 kg, 28.0 moles) in isopropanol (7.0 l) was stirred to yield a homogeneous solution. Thereto triphenylchloromethane (97%, 2.020 kg, 7.03 moles) was added slowly within 1 h at room temperature with stirring, whereat the temperature was not to exceed 30° C. After completed dissolution of triphenylchloromethane (whereat ethanolamine hydrochloride separated as a white precipitate) the reaction mixture was stirred for another hour and cooled to room temperature. The precipitate, which separated, was filtered off and the filtrate was poured into ice-cold water (8.0 l). The precipitate, which separated, was filtered off and dried in vacuo at a temperature not exceeding 50° C. Thus there were obtained 2.120 kg (98%) of the desired compound.

reactant | ethanolamine | 28.0 moles, 1.750 kg | C(O)CN | C2H7NO
reactant | triphenylchloromethane | 7.03 moles, 2.020 kg | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | ethanolamine hydrochloride | Cl.C(O)CN
solvent | isopropanol | 7.0 l | C(C)(C)O | C3H8O
product | N-trityl-2-aminoethanol | 2.120 kg, 98% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCO | C21H21NO
